US08405069B2
k. 9-(3-bromopropyl)-9H-carbazole
Carbazole (15.00 g, 89.71 mmol) and 1,3-dibromopropane (45.5 mL, 450 mmol) were dissolved in ˜200 mL dry THF and stirred under argon in a 500 mL rbf. Sodium hydride (3.23 g, 134.56 mmol) was added and the mixture was brought to reflux (˜78° C.) and allowed to do so for 40 hours. After cooling the mixture was diluted in ˜800 mL water and extracted with ethyl acetate. The organic layer was dried over magnesium sulfate and concentrated by rotary evaporation to leave an orange oil and light brown solid. This was distilled under high vacuum (0.05 Torr) at 100° C. for 2 hours to remove excess dibromo compound. A tlc in 30:1 hexanes:ethyl acetate showed 6 spots. A column was run in 30:1 hexanes:ethyl acetate and the third spot was isolated as a thick yellow oil. This oil was dissolved in hot ethanol and put in the −20° C. freezer overnight to yield a white solid (7.70 g, 30% yield). This compound is reported in the literature and the 1H NMR is consistent with the structure.

reactant | Carbazole | 89.71 mmol, 15.00 g | C1=CC=CC=2C3=CC=CC=C3NC12 | C12H9N
reactant | 1,3-dibromopropane | 450 mmol, 45.5 mL | BrCCCBr | C3H6Br2
reactant | Sodium hydride | 134.56 mmol, 3.23 g | [H-].[Na+]
solvent | THF | ˜200 mL | C1CCOC1 | C4H8O
solvent | water | ˜800 mL | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | 9-(3-bromopropyl)-9H-carbazole | 7.70 g, 30% yield | BrCCCN1C2=CC=CC=C2C=2C=CC=CC12 | C15H14BrN
